US05958942
ii) Synthesis of 4,5-dihydro-4-(4-pentafluoropropion amidobutan-1-yl)-3H-1,4,8b-triazaacenaphthylene
To a solution of 2620 mg (7.19 mmol) of 5-[N-(4-pentafluoropropionamidobutan-1-yl)aminomethyl]imidazo[1,2-a]pyridine in 10 ml of acetic acid was added 8.1 ml (107.88 mmol) of a 37% aqueous solution of formalin. The mixture was heated for 30 minutes at 100° C. The solvent was distilled off under reduced pressure, and the residue was dissolved in 100 ml of purified water. To this solution was added 2N sodium hydroxide to adjust the pH to 8, and extracted with 100 ml of dichloromethane. The organic layer was washed with 100 ml of a saturated aqueous saline solution, dried over magnesium sulfate, and distilled off the solvent under reduced pressure. The residue was purified by silica gel column chromatography to afford 2250 mg of the desired compound (83.2%, a pale yellow liquid).

reactant | 5-[N-(4-pentafluoropropionamidobutan-1-yl)aminomethyl]imidazo[1,2-a]pyridine | 7.19 mmol, 2620 mg | FC(C(=O)NCCCCNCC1=CC=CC=2N1C=CN2)(C(F)(F)F)F | C15H17F5N4O
reactant | formalin | C=O | CH2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 4,5-dihydro-4-(4-pentafluoropropion amidobutan-1-yl)-3H-1,4,8b-triazaacenaphthylene | 2250 mg | FC(C(=O)NCCCCN1CC2=CN=C3C=CC=C(C1)N32)(C(F)(F)F)F | C16H17F5N4O
